US05157038
Preparation of 8-[3-(2-acetyl-10H-phenothiazin-10-yl)propyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
A mixture containing 7.3 g of 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane, 9 ml of anhydrous triethylamine, 22.0 g of 3-(2-acetyl-10H-phenothiazin-10-yl)-propyl bromide and 80 ml of methyl isobutyl ketone is refluxed under argon while stirring for 6 hours. After cooling down the organic phase is washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The crude product obtained is purified by chromatography on a silica gel column by using first chloroform and then ethyl acetate as eluating agent. After combining the ethyl acetate eluate is evaporated under reduced pressure and the residue is recrystallized from ethanol to give the title compound in 84.5% yield, m.p.: 105°-106° C.

reactant | 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 7.3 g | CN1C(OC2(C1=C)CCNCC2)=O | C9H14N2O2
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-acetyl-10H-phenothiazin-10-yl)-propyl bromide | 22.0 g | C(C)(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCBr | C17H16BrNOS
solvent | methyl isobutyl ketone | 80 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-(2-acetyl-10H-phenothiazin-10-yl)propyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 84.5% yield | C(C)(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCC1C2(C(N(C(O2)=O)C)=C)CCNC1 | C26H29N3O3S
